US06559127B1
N-Methyl-L-phenylalanine (500 mg, 2.79 mmol) was dissolved in 1N NaOH (6 mL). Dioxane (9 mL)) was added, followed by p-toluenesulfonyl chloride (532 mg, 2.79 mmol) and the mixture was vigorously stirred for 1 hr. The volatiles were removed in vacuo and the residue was dissolved in water (30 mL) and washed with Et2O (2×30 mL) before making acidic with 1N HCl. The mixture was extracted with CHCl3 (3×30 mL) and the extracts were evaporated in vacuo to give N-(toluene-4-sulfonyl)-N-methylphenylalanine as a solid (424 mg, 45%). N-(Toluene-4-sulfonyl)-N-methylphenylalanine was coupled to L-phenylalanine ethyl ester using the procedure described in Method 3 (400 mg, 62%). The title compound was prepared via hydrolysis of the ethyl ester using NaOH in ethanol. Proton and carbon NMR analyis indicated a mixture of diastereomers.

reactant | N-Methyl-L-phenylalanine | 2.79 mmol, 500 mg | CN[C@@H](CC1=CC=CC=C1)C(=O)O | C10H13NO2
reactant | Dioxane | 9 mL | O1CCOCC1 | C4H8O2
reactant | p-toluenesulfonyl chloride | 2.79 mmol, 532 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | NaOH | 1N, 6 mL | [OH-].[Na+]
product | N-(toluene-4-sulfonyl)-N-methylphenylalanine | 424 mg, 45% | C1(=CC=C(C=C1)S(=O)(=O)N([C@@H](CC1=CC=CC=C1)C(=O)O)C)C | C17H19NO4S
